US06777409B2
6-[4-(2-Bromo-5-fluorophenyl)-4-methyl-2-oxovaleroylamino]-4-methyl-2,3-benzoxazin-1-one
663 mg (1.56 mol) of 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (Dess-Martin-periodinane, cf. D. B. Dess, J. C. Martin, J. Am. Chem. Soc. 1991, 113, 7277) is added to a solution of 250 mg (0.78 mmol) of 4-(2-bromo-5-fluorophenyl)-2-hydroxy-4-methylvaleric acid-methyl ester in 10 ml of dichloromethane. After 1.5 hours at room temperature, the batch is diluted with 150 ml of MTBE, washed with a solution of 1.2 g of NaHCO3 and 4.0 g of Na2SO3 in 50 ml of water, saturated NaHCO3 and saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue (250 mg) is taken up in 16 ml of THF-EtOH (1:1) and mixed with 3.9 ml (3.9 mmol) of a 1 M sodium hydroxide solution. After 30 minutes, the batch is concentrated in a vacuum, diluted with 20 ml of water and washed with MTBE. The aqueous phase is acidified with 10% sulfuric acid (pH 2) and extracted with 100 ml of ethyl acetate and 100 ml of dichloromethane. The combined extracts are dried (NaSO4) and concentrated by evaporation in a vacuum. 0.06 ml (0.92 mmol) of thionyl chloride is added in drops at −6° C. to the solution of the residue (230 mg) in 5 ml of dimethyl acetamide. After 20 minutes at −6° C., 201 mg (1.14 mmol) of 6-amino-4-methyl-2,3-benzoxazin-1-one is added to it. The batch is stirred for 15 hours at room temperature, acidified with 50 ml of 10% citric acid and shaken out with 150 ml of MTBE. The organic phase is washed with saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 290 mg of product.

reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 1.56 mol, 663 mg | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 4-(2-bromo-5-fluorophenyl)-2-hydroxy-4-methylvaleric acid-methyl ester | 0.78 mmol, 250 mg | COC(C(CC(C)(C)C1=C(C=CC(=C1)F)Br)O)=O | C13H16BrFO3
reactant | thionyl chloride | 0.92 mmol, 0.06 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-amino-4-methyl-2,3-benzoxazin-1-one | 1.14 mmol, 201 mg | NC=1C=CC2=C(C(=NOC2=O)C)C1 | C9H8N2O2
reactant | citric acid | 50 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | MTBE | 150 ml | CC(C)(C)OC | C5H12O
solvent | dimethyl acetamide | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | MTBE | 150 ml | CC(C)(C)OC | C5H12O
product | 6-[4-(2-Bromo-5-fluorophenyl)-4-methyl-2-oxovaleroylamino]-4-methyl-2,3-benzoxazin-1-one | 290 mg | BrC1=C(C=C(C=C1)F)C(CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)C)C1)=O)(C)C | C21H18BrFN2O4
